US07572921B2
Benzyl-[1-(3,5-dichloro-benzyl)-1H-imidazol-2-yl]-amine
N-[1-(3,5-Dichloro-benzyl)-1H-imidazol-2-yl]-benzamide, was dissolved in anhydrous THF and 1M LiAlH4 was added to the reaction solution at room temperature. The reaction mixture was then heated to 70° C. and stirred for 10 min. The mixture was then diluted with CH2Cl2 and water was slowly added until H2 formation stopped. The reaction mixture was passed through a cartridge packed with anhydrous Na2SO4. The filtrated was concentrated and purified by silica gel preparative TLC using 95:5 CH2Cl2:MeOH to afford the title compound (5 mg, 7%); MS m/z 332 [C17H15Cl2N3+H]+.

reactant | N-[1-(3,5-Dichloro-benzyl)-1H-imidazol-2-yl]-benzamide | ClC=1C=C(CN2C(=NC=C2)NC(C2=CC=CC=C2)=O)C=C(C1)Cl | C17H13Cl2N3O
reactant | LiAlH4 | 1M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | Benzyl-[1-(3,5-dichloro-benzyl)-1H-imidazol-2-yl]-amine | 5 mg, 7% | C(C1=CC=CC=C1)NC=1N(C=CN1)CC1=CC(=CC(=C1)Cl)Cl | C17H15Cl2N3
